US05712267
101(1) 4-Nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-{(2S,4S)-1-methyl-2-[4-[4-nitrobenzyloxycarbonylamidino) piperazin-1-ylcarbonyl]pyrrolidin-4-yl-thio}-1-carbapen-2-em-3-carboxylate
1600 mg of 4-nitrobenzyl (1R, 5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R) -1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (prepared as described in Preparation 123) were dissolved in 16 ml of dry acetonitrile, and a solution of 1120 mg of (2S,4S)-4-mercapto-1-methyl-2-[4-(4-nitrobenzyloxycarbonylamidino) piperazin-1-ylcarbonyl]pyrrolidine (prepared as described in Preparation 93) in 11 ml of dry acetonitrile and 430 μl of diisopropylethylamine were added dropwise to the resulting solution, whilst ice-cooling. The resulting mixture was stirred at the same temperature overnight, after which it was concentrated by evaporation under reduced pressure. The resulting residue was diluted with ethyl acetate, and the mixture was washed with an aqueous solution of sodium hydrogencarbonate, with water and with an aqueous solution of sodium chloride, in that order. The ethyl acetate layer was dehydrated over anhydrous sodium sulfate and then concentrated by evaporation under reduced pressure. The resulting residue was subjected to reverse phase silica gel column chromatography (Cosmosil 75C18 -prep, manufactured by Nacalai Tesque, 300 ml), eluted with a 1 by volume mixture of acetonitrile and water. The fractions containing the desired compound were collected and concentrated by evaporation under reduced pressure, to obtain 1520 mg of the title compound, as a powder.

reactant | 4-nitrobenzyl (1R, 5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R) -1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 1600 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | (2S,4S)-4-mercapto-1-methyl-2-[4-(4-nitrobenzyloxycarbonylamidino) piperazin-1-ylcarbonyl]pyrrolidine | 1120 mg | S[C@H]1C[C@H](N(C1)C)C(=O)N1CCN(CC1)C(NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=N | C19H26N6O5S
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | acetonitrile | 11 ml | C(C)#N | C2H3N
solvent | diisopropylethylamine | 430 μl | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-Nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-{(2S,4S)-1-methyl-2-[4-[4-nitrobenzyloxycarbonylamidino) piperazin-1-ylcarbonyl]pyrrolidin-4-yl-thio}-1-carbapen-2-em-3-carboxylate | 1520 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C)C(=O)N2CCN(CC2)C(NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=N)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C36H42N8O11S
